### PR TITLE
[Merged by Bors] - feat(NumberTheory/Height/EllipticCurve): naïve height and approximate parallelogram law

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This is the final step toward the *approximate parallelogram law* on an elliptic curve:
`|h (P+Q) + h (P-Q) - 2 * (h P + h Q)| ≤ C`, where `h` is the naïve height (defined in this PR) and `C` is a constant depending only on the curve.

We use this to deduce that the group of `F`-rational torsion points on an elliptic curve is finite, when `F` is a field satisfying the Northcott property (e.g., a number field).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 1]
```diff
@@ -150,6 +150,11 @@ noncomputable def sym2x (P Q : W'.Point) : Fin 3 → R :=
   letI Qx := Q.xRep
   ![Px 0 * Qx 0, Px 0 * Qx 1 + Px 1 * Qx 0, Px 1 * Qx 1]
 
+lemma sym2x_eq {P Q : W'.Point} :
```
Comment (MichaelStollBayreuth) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:153]: I'm adding this back: the definition of `sym2x` is not `exposed`d (on purpose), so we need a rewrite lemma for use in downstream files.

**Comment by MichaelStollBayreuth** [comment]
I've added the material to the existing module `Mathlib.NumberTheory.Height.EllipticCurve` that was set up for this purpose earlier. Where to put which parts of the material should be a separate discussion at a later point.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 2]
```diff
@@ -150,6 +150,11 @@ noncomputable def sym2x (P Q : W'.Point) : Fin 3 → R :=
...
+    sym2x P Q =
+      ![P.xRep 0 * Q.xRep 0, P.xRep 0 * Q.xRep 1 + P.xRep 1 * Q.xRep 0, P.xRep 1 * Q.xRep 1] :=
+  (rfl)
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Is there meant to be brackets here?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/NumberTheory/Height/EllipticCurve.lean [hunk 3]
```diff
@@ -6,51 +6,130 @@ Authors: Michael Stoll
...
+variable {F : Type*} [Field F] [AdmissibleAbsValues F] {W : Affine F}
+
+section NaiveHeight
+
+/-- The naïve logarithmic height of an affine point on `W`. -/
+noncomputable def Point.naiveHeight (P : W.Point) : ℝ :=
+  logHeight P.xRep
+
+lemma Point.naiveHeight_eq_logHeight (P : W.Point) : P.naiveHeight = logHeight P.xRep :=
+  (rfl)
```
Comment (Multramate) [inline Mathlib/NumberTheory/Height/EllipticCurve.lean]: Ditto

File: Mathlib/NumberTheory/Height/EllipticCurve.lean [hunk 4]
```diff
@@ -6,51 +6,130 @@ Authors: Michael Stoll
...
+
+lemma Point.naiveHeight_eq_logHeight₁ {P : W.Point} :
+    P.naiveHeight = logHeight₁ (P.xRep 0) := by
```
Comment (Multramate) [inline Mathlib/NumberTheory/Height/EllipticCurve.lean]: Can this be moved to the previous line?
